Transistor-level TIA private fixture
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.options method=gear maxord=2 reltol=1e-3 abstol=1e-12 vntol=1e-6 itl4=500 rshunt=1e12
R_TB_BUF_LOAD outp outn 100
* IHP SG13G2 25-Gbaud differential optical-receiver front end

* ---------------------------------------------------------------------
* Bias
* ---------------------------------------------------------------------
Rnr vcc nref 3.60k
XMnr nref nref 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=1
Cnr nref 0 4p

Rbb1 vcc bcb 1.066k
Rbb2 bcb 0 1.000k
Cbcb bcb 0 20p

Rca1 vcc bcas 5.60k
Rca2 bcas 0 10.1k
Ccas bcas 0 4p

Rht vcc href 1.05k
XQhref href href 0 0 npn13G2 Nx=4 selft=0
Chref href 0 4p

Rvb1 vcc vbias 5.40k
Rvb2 vbias 0 6.90k
Cvbias vbias 0 4p

* class-C rectifier base bias ~ 0.704 V
Rpd1 vcc vpd 12.27k
Rpd2 vpd 0 3.33k
Cvpd vpd 0 2p

* ---------------------------------------------------------------------
* TIA P : common-base + cascode + DC-overload cancellation
* ---------------------------------------------------------------------
XQcbp cbp bcb inp 0 npn13G2 Nx=6 selft=0
XQcsp tiap bcas cbp 0 npn13G2 Nx=4 selft=0
Lcp vcc ntp 0.24n
Rcp ntp tiap 186
XMtp inp gtp 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=4
Rdc1p tiap gtp 75k
Rdc2p gtp 0 56k
Cgtp gtp 0 12n

XQef0p vcc tiap efp 0 npn13G2 Nx=4 selft=0
XMef0p efp nref 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=2

* ---------------------------------------------------------------------
* TIA N
* ---------------------------------------------------------------------
XQcbn cbn bcb inn 0 npn13G2 Nx=6 selft=0
XQcsn tian bcas cbn 0 npn13G2 Nx=4 selft=0
Lcn vcc ntn 0.24n
Rcn ntn tian 186
XMtn inn gtn 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=4
Rdc1n tian gtn 75k
Rdc2n gtn 0 56k
Cgtn gtn 0 12n

XQef0n vcc tian efn 0 npn13G2 Nx=4 selft=0
XMef0n efn nref 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=2

Cac1p efp vg1p 800p
Cac1n efn vg1n 800p
Rbg1p vg1p vbias 2.2k
Rbg1n vg1n vbias 2.2k

* ---------------------------------------------------------------------
* VGA 1 : fixed HBT tail + gc MOS extra tail
* ---------------------------------------------------------------------
XQv1p nv1p vg1p ev1t 0 npn13G2 Nx=6 selft=0
XQv1n nv1n vg1n ev1t 0 npn13G2 Nx=6 selft=0
XQv1f ev1t href 0 0 npn13G2 Nx=4 selft=0
XMv1g ev1t gc 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=2
Lv1p vcc nlv1p 0.09n
Lv1n vcc nlv1n 0.09n
Rv1p nlv1p nv1p 40.0
Rv1n nlv1n nv1n 40.0

XQef1p vcc nv1p ef1p 0 npn13G2 Nx=4 selft=0
XQef1n vcc nv1n ef1n 0 npn13G2 Nx=4 selft=0
XMef1p ef1p nref 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=2
XMef1n ef1n nref 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=2

Rpkp ef1p pkdinp 600
Rpkn ef1n pkdinn 600

Cac2p ef1p vg2p 400p
Cac2n ef1n vg2n 400p
Rbg2p vg2p vbias 2.2k
Rbg2n vg2n vbias 2.2k

* ---------------------------------------------------------------------
* VGA 2
* ---------------------------------------------------------------------
XQv2p nv2p vg2p ev2t 0 npn13G2 Nx=6 selft=0
XQv2n nv2n vg2n ev2t 0 npn13G2 Nx=6 selft=0
XQv2f ev2t href 0 0 npn13G2 Nx=4 selft=0
XMv2g ev2t gc 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=2
Lv2p vcc nlv2p 0.09n
Lv2n vcc nlv2n 0.09n
Rv2p nlv2p nv2p 40.0
Rv2n nlv2n nv2n 40.0

XQef2p vcc nv2p nbufp 0 npn13G2 Nx=5 selft=0
XQef2n vcc nv2n nbufn 0 npn13G2 Nx=5 selft=0
XMef2p nbufp nref 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=2
XMef2n nbufn nref 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=2
Riso_bp nbufp bufinp 12
Riso_bn nbufn bufinn 12

* ---------------------------------------------------------------------
* Output buffer
* ---------------------------------------------------------------------
XQbp outp bufinp ebp 0 npn13G2 Nx=10 selft=0
XQbn outn bufinn ebn 0 npn13G2 Nx=10 selft=0
Reb_p ebp ebt 15
Reb_n ebn ebt 15
XMbt ebt nref 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=32
Lbp vcc nbp 0.10n
Lbn vcc nbn 0.10n
Rbp nbp outp 70
Rbn nbn outn 70

* Isolated LC delay out -> final (buffer test remains on outp/outn)
Lf1p outp xf1p 0.38n
Lf1n outn xf1n 0.38n
Cf1p xf1p 0 10f
Cf1n xf1n 0 10f
Lf2p xf1p xf2p 0.38n
Lf2n xf1n xf2n 0.38n
Cf2p xf2p 0 10f
Cf2n xf2n 0 10f
Lf3p xf2p xf3p 0.38n
Lf3n xf2n xf3n 0.38n
Cf3p xf3p 0 10f
Cf3n xf3n 0 10f
Lf4p xf3p xf4p 0.38n
Lf4n xf3n xf4n 0.38n
Cf4p xf4p 0 10f
Cf4n xf4n 0 10f
Lf5p xf4p xf5p 0.38n
Lf5n xf4n xf5n 0.38n
Cf5p xf5p 0 10f
Cf5n xf5n 0 10f
Lf6p xf5p xf6p 0.38n
Lf6n xf5n xf6n 0.38n
Cf6p xf6p 0 10f
Cf6n xf6n 0 10f
Lf7p xf6p xf7p 0.38n
Lf7n xf6n xf7n 0.38n
Cf7p xf7p 0 10f
Cf7n xf7n 0 10f
Lf8p xf7p finalp 0.38n
Lf8n xf7n finaln 0.38n
Cf8p finalp 0 10f
Cf8n finaln 0 10f

Rburn vcc 0 148

* ---------------------------------------------------------------------
* Peak detector : AC-coupled class-C rectifier, collector-load output
* ---------------------------------------------------------------------
Crecp pkdinp brecp 0.60p
Crecn pkdinn brecn 0.60p
Rrecp brecp vpd 3.3k
Rrecn brecn vpd 3.3k

XQor1 detn brecp eor 0 npn13G2 Nx=2 selft=0
XQor2 detn brecn eor 0 npn13G2 Nx=2 selft=0
Reor eor 0 480
Ceor eor 0 10f
Rpdn vcc detn 12.4k
Cdetn detn 0 18f

XQrf1 detp vpd eref 0 npn13G2 Nx=2 selft=0
XQrf2 detp vpd eref 0 npn13G2 Nx=2 selft=0
Reref eref 0 480
Ceref eref 0 10f
Rpdp vcc detp 12.4k
Cdetp detp 0 18f

* ---------------------------------------------------------------------
* AGC amplifier : AC-coupled degenerated HBT pair, Av ~ 15
* ---------------------------------------------------------------------
Cagip detp agip 80p
Cagin detn agin 80p
Ragbp agip vbias 80k
Ragbn agin vbias 80k

XQagp dumagc agip eagp 0 npn13G2 Nx=2 selft=0
XQagn agcnet agin eagn 0 npn13G2 Nx=2 selft=0
Rdegp eagp oas 18.6
Rdegn eagn oas 18.6
XMagt oas oa 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=2
Ragp vcc dumagc 3.23k
Ragn vcc agcnet 3.23k
Cag1 agcnet 0 25f
Ragser agcnet agc 10
Cagc agc 0 25f

* ---------------------------------------------------------------------
* Manual / automatic gain selection
* ---------------------------------------------------------------------
XMman gc mc mgc vcc sg13_hv_pmos w=10u l=0.4u ng=1 m=24
XMauto gc mc agc 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=24
Cgc gc 0 25f

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.4
V_TB_OA oa 0 1.2
I_TB_P 0 inp DC 0
I_TB_N inn 0 DC 0
V_TB_BUFP bufinp 0 SIN(2.235 0.11125 1G)
V_TB_BUFN bufinn 0 SIN(2.235 0.11125 1G 0 0 180)

.control
set wr_vecnames
set wr_singlescale
tran 2p 2n 0 2p
wrdata transient.dat v(bufinp) v(bufinn) v(outp) v(outn)
quit
.endc
.end
